US07816391B2
N-Ethyldiisopropylamine (1.553 mL, 8.97 mmol) was added to (4-chloro-2-methylphenyl)hydrazine hydrochloride (1.733 g, 8.97 mmol) and (Z)-ethyl 2-((dimethylamino)methylene)-4,4-dimethyl-3-oxopentanoate (Intermediate#83) (2.04 g, 8.97 mmol) in ethanol (30 mL). The resulting solution was stirred at 90° C. for 2 hours. The reaction mixture was evaporated to dryness and redissolved in DCM (50 mL), and washed sequentially with water (2×10 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 10% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford ethyl 5-tert-butyl-1-(4-chloro-2-methylphenyl)-1H-pyrazole-4-carboxylate (0.891 g, 30.9%) as a orange oil.

reactant | N-Ethyldiisopropylamine | 8.97 mmol, 1.553 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (4-chloro-2-methylphenyl)hydrazine hydrochloride | 8.97 mmol, 1.733 g | Cl.ClC1=CC(=C(C=C1)NN)C
reactant | (Z)-ethyl 2-((dimethylamino)methylene)-4,4-dimethyl-3-oxopentanoate | 8.97 mmol, 2.04 g | CN(C)\C=C(/C(=O)OCC)\C(C(C)(C)C)=O | C12H21NO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 5-tert-butyl-1-(4-chloro-2-methylphenyl)-1H-pyrazole-4-carboxylate | 0.891 g, 30.9% | C(C)(C)(C)C1=C(C=NN1C1=C(C=C(C=C1)Cl)C)C(=O)OCC | C17H21ClN2O2
